US07179812B2
2-Chloro-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrimidine (2.52 g, 10.8 mmol) is dissolved in ethyl acetate (210 ml) and hydrogenated for 2.5 h at r.t. in the presence of palladium on calcium carbonate (10%, 2.55 g). The reaction mixture is filtered and concentrated in vacuo to yield 2-chloro-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine as a colorless solid. Yield 2.15 g (84%)

reactant | 2-Chloro-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrimidine | 10.8 mmol, 2.52 g | ClC1=NC=C(C=N1)C#CCCN1N=NC=C1 | C10H8ClN5
solvent | ethyl acetate | 210 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on calcium carbonate | 2.55 g | [Pd] | Pd
product | 2-chloro-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine | ClC1=NC=C(C=N1)CCCCN1N=NC=C1 | C10H12ClN5
